US07488740B2
10. 8-Chloro-6-Methoxymethyl-3-(3-trifluoromethyl-pyridin-2-yl)-pyrido-[2,3-b]pyrazine
6-Methoxymethyl-3-(3-trifluoromethyl-pyridin-2-yl)-pyrido-[2,3-b]pyrazin-8-ol (146 mg, 0.436 mmol) is dissolved in a solution of CHCl3 (20 mL), POCl3 (0.12 ml, 1.31 mmol) and 2,6-lutidine (0.2 mL, 1.31 mmol). The mixture is heated at reflux overnight. The reaction is concentrated under reduced pressure. EtOAc (30 mL) is added and the mixture is extracted with NaHCO3 (aq) (30 mL) and brine (30 mL). The organic extract is dried over Na2SO4 and the solvent removed under reduced pressure. The crude product is purified by silica gel preparatory TLC eluting with hexanes/EtOAc (1:1) to yield the title compound as a light yellow oil that solidifies upon standing.

reactant | 6-Methoxymethyl-3-(3-trifluoromethyl-pyridin-2-yl)-pyrido-[2,3-b]pyrazin-8-ol | 0.436 mmol, 146 mg | COCC=1C=C(C=2C(=NC(=CN2)C2=NC=CC=C2C(F)(F)F)N1)O | C15H11F3N4O2
reactant | POCl3 | 1.31 mmol, 0.12 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-lutidine | 1.31 mmol, 0.2 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-Chloro-6-Methoxymethyl-3-(3-trifluoromethyl-pyridin-2-yl)-pyrido-[2,3-b]pyrazine | ClC1=CC(=NC2=NC(=CN=C21)C2=NC=CC=C2C(F)(F)F)COC | C15H10ClF3N4O
